US07012074B2
(a) tert-Butyl 3-[3-(4-cyanophenoxy)-2-hydroxypropyl]-3,8-diazabicyclo[3.2.1]octane-8-carboxylate
To a solution of tert-butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate (3.08 g, 14.5 mmol; from Preparation B above) in 2-propanol (200 mL) was added H2O (20 mL) and 4-(2-oxiranylmethoxy)benzonitrile (2.54 g, 14.5 mmol; prepared as described in international patent application WO 99/31100). The resulting solution was warmed to 75° C., stirred for 18 h, cooled and concentrated in vacuo. Flash chromatography of the residue on silica gel eluting with CH2Cl2:EtOAc (3:1 to 2:1 gradient) gave 3.86 g (69%) of the sub-title compound.

reactant | tert-butyl 3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 14.5 mmol, 3.08 g | C12CNCC(CC1)N2C(=O)OC(C)(C)C | C11H20N2O2
reactant | H2O | 20 mL | O | H2O
reactant | 4-(2-oxiranylmethoxy)benzonitrile | 14.5 mmol, 2.54 g | O1C(C1)COC1=CC=C(C#N)C=C1 | C10H9NO2
solvent | 2-propanol | 200 mL | CC(C)O | C3H8O
product | tert-Butyl 3-[3-(4-cyanophenoxy)-2-hydroxypropyl]-3,8-diazabicyclo[3.2.1]octane-8-carboxylate | 3.86 g, 69% | C(#N)C1=CC=C(OCC(CN2CC3CCC(C2)N3C(=O)OC(C)(C)C)O)C=C1 | C21H29N3O4
